US08497368B2
1-[3-(1-Quinolin-6-yl-cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone (50.4)
A solution of 6-[1-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-cyclopropyl]-quinoline (30 mg, 0.093 mmol), PdCl2(PPh3)2 (6.5 mg, 0.0093 mmol) and tributyl(1-ethoxyvinyl)stannane (67 mg, 0.186 mmol) in 1,4-dioxane (3 mL) was heated at 90° C. for 3 h under N2. The reaction mixture was diluted with EtOAc, washed with aqueous KF. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in HOAc and 3 N HCl, and stirred at room temperature for 3 h. The solvent was removed in vacuo and the residue was dissolved in DCM, washed with sat. aq. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography in silica gel eluting with a EtOAC/MeOH gradient to afford the title compound as yellow solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.89 (dd, 1H); 8.13-8.04 (m, 3H), 7.93 (d, 1H), 7.87 (dd, 1H), 7.70 (d, 1H), 7.40 (dd, 1H), 2.51 (s, 3H), 1.92-1.89 (m, 2H), 1.73-1.69 (m, 2H). LCMS (method A): [MH]+=330, tR=4.18 min.

reactant | 6-[1-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-cyclopropyl]-quinoline | 0.093 mmol, 30 mg | ClC=1C=CC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C17H12ClN5
reactant | tributyl(1-ethoxyvinyl)stannane | 0.186 mmol, 67 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.0093 mmol, 6.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-[3-(1-Quinolin-6-yl-cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=C2)C(C)=O | C19H15N5O
